US06525074B2
Step B: Preparation of 2-Fluoro-4-(1-pyridin-3-yl-methanoyl)-benzonitrile
2-Fluoro-4-(1-hydroxy-1-pyridin-3-yl-methyl)-benzonitrile (1.04 g, 4.55 mmol) and MnO2 (3.96 g, 45.5 mmol) were stirred in CH2Cl2 (100 mL) for 4 h. The solution was filtered through a celite pad and concentrated to give the title compound.

reactant | 2-Fluoro-4-(1-hydroxy-1-pyridin-3-yl-methyl)-benzonitrile | 4.55 mmol, 1.04 g | FC1=C(C#N)C=CC(=C1)C(C=1C=NC=CC1)O | C13H9FN2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | 45.5 mmol, 3.96 g | O=[Mn]=O
product | 2-Fluoro-4-(1-pyridin-3-yl-methanoyl)-benzonitrile | FC1=C(C#N)C=CC(=C1)C(=O)C=1C=NC=CC1 | C13H7FN2O
